US07977331B1
To a suspension of N-tert-butyl-2-bromo-3-cyclohexyl-1H-indole-6-sulfonamide (2.10 g, 5.08 mmol) and 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-methylphenylamine (1.86 g, 8.00 mmol) in 1,2-dimethoxyethane (20 ml) and water (10 ml) were added sodium hydrogen carbonate (1.60 g, 19.2 mmol) and tetrakis(triphenylphosphine)palladium (176 mg, 0.15 mmol), and the mixture was heated under reflux for 14 hr. The reaction mixture was allowed to cool to room temperature, water was added to the reaction mixture and the mixture was extracted with toluene. The organic layer was successively washed with water and saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure and diisopropy ether was added to the residue. The precipitated solid was collected by filtration and dried in vacuo to give N-tert-butyl-2-(2-amino-4-methylphenyl)-3-cyclohexyl-1H-indole-6-sulfonamide (2.14 g, yield 96.3%).

reactant | N-tert-butyl-2-bromo-3-cyclohexyl-1H-indole-6-sulfonamide | 5.08 mmol, 2.10 g | C(C)(C)(C)NS(=O)(=O)C1=CC=C2C(=C(NC2=C1)Br)C1CCCCC1 | C18H25BrN2O2S
reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5-methylphenylamine | 8.00 mmol, 1.86 g | CC1(OB(OC1(C)C)C1=C(C=C(C=C1)C)N)C | C13H20BNO2
reactant | sodium hydrogen carbonate | 19.2 mmol, 1.60 g | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
solvent | water | 10 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.15 mmol, 176 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-tert-butyl-2-(2-amino-4-methylphenyl)-3-cyclohexyl-1H-indole-6-sulfonamide | 2.14 g, yield 96.3% | C(C)(C)(C)NS(=O)(=O)C1=CC=C2C(=C(NC2=C1)C1=C(C=C(C=C1)C)N)C1CCCCC1 | C25H33N3O2S
